US04579865
7-Hydroxybenzofuran
A mixture of 7methoxybenzofuran (1.8 g.) and pyridine hydrochloride (4.6 g.) was heated at 220° C. for 21/2 hours. The reaction was cooled and diluted with methylene chloride. The solution was washed with 5% aqueous hydrochloric acid (six times); dried (MgSO4) and concentrated to an oil, 0.8 g. (50% yield).

reactant | 7methoxybenzofuran | 1.8 g | COC1=CC=CC=2C=COC21 | C9H8O2
reactant | pyridine hydrochloride | 4.6 g | Cl.N1=CC=CC=C1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-Hydroxybenzofuran | 50% yield | OC1=CC=CC=2C=COC21 | C8H6O2
